US07666888B2
To a solution of tert-butyl (2R)-2-formylpyrrolidine-1-carboxylate (500 mg, 2.51 mmol) in dry THF (7 mL) at −78° C. was added 1 M phenylmagnesium bromide solution in THF (7.5 mL, 7.5 mmol, 3 eq.). After stirring the reaction mixture for 2 h, saturated aqueous ammonium chloride (1.5 mL) was added. The mixture was warmed to room temperature, and water (50 mL) and ethyl acetate (25 mL) were added. The phases were separated, and the aqueous layer was extracted with ethyl acetate (25 mL). The combined organic phases were washed with 10% citric acid, brine, saturated aqueous sodium bicarbonate, and dried over MgSO4. The solvent was evaporated and the residue was purified by silica gel chromatography (pentane/ethyl acetate, 7:3) to give tert-butyl (2R)-2-[hydroxy(phenyl)methyl]pyrrolidine-1-carboxylate a colorless oil. Subsequent BOC deprotection was carried out by dissolving the intermediate in ethyl acetate (3 mL) and leading a stream of HCl (g) through the solution for 20 min. The solvent was evaporated to give the title compound as a colorless oil.

reactant | tert-butyl (2R)-2-formylpyrrolidine-1-carboxylate | 2.51 mmol, 500 mg | C(=O)[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | phenylmagnesium bromide | 1 M | C1(=CC=CC=C1)[Mg]Br
reactant | ammonium chloride | 1.5 mL | [Cl-].[NH4+]
reactant | water | 50 mL | O | H2O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 7.5 mmol, 7.5 mL, 3 eq. | C1CCOC1 | C4H8O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl (2R)-2-[hydroxy(phenyl)methyl]pyrrolidine-1-carboxylate | OC([C@@H]1N(CCC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C16H23NO3
